US07456164B2
{4-[4-(3-Piperidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine dihydrochloride
A mixture of 4-[4-(3-piperidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carbonitrile (1.45 g, 4.4 mmol), isopropanol (12 mL), concentrated HCl (350 μL), and PtO2 (115 mg) was stirred and hydrogenated to 50° C. overnight at atmospheric pressure. The mixture was filtrated over diatomaceous earth and concentrated. The residue was dissolved in DCM/MeOH mixture and washed with NaOH (1M). The organic layers were dried over Na2SO4, filtered and concentrated, purified by flash chromatography (10 g silica gel, DCM/MeOH (10% NH3)) to provide the title compound as free base (0.650 g, 44.5%). This was then converted to the dihydrochloride salt. 1H NMR (400 MHz, DMSO-D6) δ 10.66 (bs, 1H), 7.74 (bs, 3H), 7.32 (d, 2H), 6.97 (d, 2H), 4.07 (t, 2H), 3.73-3.65 (m, 2H), 3.47-3.28 (m, 4H), 3.18-3.10 (m, 2H), 2.98-2.81 (m, 4H), 2.25-2.16 (m, 2H), 2.14-2.06 (m, 2H), 1.90-1.67 (m, 7H), 1.44-1.31 (m, 1H).

reactant | 4-[4-(3-piperidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carbonitrile | 4.4 mmol, 1.45 g | N1(CCCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C20H28N2O2
reactant | HCl | 350 μL | Cl | ClH
catalyst | PtO2 | 115 mg | O=[Pt]=O
solvent | isopropanol | 12 mL | C(C)(C)O | C3H8O
product | {4-[4-(3-Piperidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine dihydrochloride | Cl.Cl.N1(CCCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | InChI=1S/C20H32N2O2.2ClH/c21-17-20(9-15-23-16-10-20)18-5-7-19(8-6-18)24-14-4-13-22-11-2-1-3-12-22;;/h5-8H,1-4,9-17,21H2;2*1H
